US07488789B2
(1) Synthesis of 3-tert-butyl-1-methyl-6,6-diphenyl fulvene
In a 200 ml three-necked flask equipped with a magnetic stirrer chip and three-way cock thoroughly purged with nitrogen, 2.73 g of 3-tert-butyl-1-methyl-cyclopentadiene (20.1 mmol) was dissolved in 30 ml of dehydrated tetrahydrofuran in a nitrogen atmosphere. To the solution, 13.5 ml of n-butyl lithium/hexane solution (1.58M: 21.3 mmol) was gradually added dropwise in an ice bath and stirred at room temperature for 3 days. To the reaction solution, 10.5 ml of hexamethyl phosphoramide (60.4 mmol) was added and stirred at room temperature for 1 hr. To the solution, a solution prepared by dissolving 3.87 g of benzophenone (21.2 mmol) in 40 ml of dehydrated tetrahydrofuran was gradually added dropwise in an ice bath and stirred at room temperature over night. To the resulting reaction mixture, 50 ml of a hydrochloric acid aqueous solution (1N) was gradually added dropwise in an ice bath and stirred at room temperature for some time. Diethyl ether was added to the mixed solution to separate an organic phase. The organic phase was washed with a saturated sodium bicarbonate aqueous solution, water and saturated brine. The organic phase was dried with anhydrous magnesium sulfate, thereafter the drying agent was filtered off and the solvent was distilled off from the filtrate under reduced pressure to give a dark-red liquid. The liquid was purified with a column chromatography using 300 g of silica gel (developing solvent: n-hexane) and the developing solvent was distilled off under reduced pressure, and thereby the aimed compound was obtained in an amount of 3.28 g (10.9 mmol) as a reddish-orange solid (yield: 54%).

reactant | 3-tert-butyl-1-methyl-cyclopentadiene | 20.1 mmol, 2.73 g | C(C)(C)(C)C=1C=C(CC1)C | C10H16
reactant | n-butyl lithium hexane | 21.3 mmol, 1.58M, 13.5 ml | C(CCC)[Li].CCCCCC
reactant | hexamethyl phosphoramide | 60.4 mmol, 10.5 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | benzophenone | 21.2 mmol, 3.87 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 3-tert-butyl-1-methyl-6,6-diphenyl fulvene | C(C)(C)(C)C=1C=C(C(C1)=C(C1=CC=CC=C1)C1=CC=CC=C1)C | C23H24
